US07576217B2
(6-Bromo-2-methyl-4-phenyl-quinolin-3-yl)-phenyl-methanone
The title compound was prepared from (2-Amino-5-bromo-phenyl)-phenyl-methanone [example A16] and 1-phenyl-1,3-butanedione, except that the residue was purified by spontaneous crystallization from the reaction mixture. Yield: 61%; MS: m/z=402 (M+H).

reactant | (2-Amino-5-bromo-phenyl)-phenyl-methanone | NC1=C(C=C(C=C1)Br)C(=O)C1=CC=CC=C1 | C13H10BrNO
reactant | 1-phenyl-1,3-butanedione | C1(=CC=CC=C1)C(CC(C)=O)=O | C10H10O2
product | (6-Bromo-2-methyl-4-phenyl-quinolin-3-yl)-phenyl-methanone | Yield: 61% | BrC=1C=C2C(=C(C(=NC2=CC1)C)C(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C23H16BrNO
